US06265531B1
Preparation of 5,6-dimethyl-3-isobutenyl-tetrahydrophthalic anhydride (1)
Maleic anhydride (39.88 g), 0.407 mol) and allo-ocimene (55.34 g, 0.407 mol) were charged in a 250 ml three necked round-bottom flask, connected with a reflux condenser. Immediately after addition of the maleic anhydride to the allo-ocimene, the mixture turned intense orange/yellow. The mixture was warmed carefully to 50° C. Then, as the maleic anhydride started to melt, a violent and exothermic Diels-Alder reaction took place. The temperature rose rapidly to 170-190° C. while the color of the mixture became less intense. After about 10 minutes the temperature started to drop. The mixture was kept at 100° C. for one hour. 93.71 g (0.401 mol=98.4%) of a yellow product was obtained that solidified on standing (melting point 78-82° C.). The product was washed with pentane in order to remove the yellow color to a great extent. The yield dropped during washing to about 65%. The anhydride was recrystallized from heptane to yield a white solid (melting point 83.5° C.-84° C.). Yield after recrystallization was 60%).

reactant | Maleic anhydride | 39.88 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | allo-ocimene | 0.407 mol, 55.34 g | C/C=C(\C)/C=C/C=C(C)C | C10H16
product | 5,6-dimethyl-3-isobutenyl-tetrahydrophthalic anhydride | CC=1CC(C2C(C(=O)OC2=O)C1C)C=C(C)C | C14H18O3
